US04659718
A mixture of 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone (5.0 g), aqueous sodium hydroxide (5N, 80 ml) and industrial methylated spirit (10 ml) was boiled under reflux for 160 hours. Reaction was incomplete. The hot reaction mixture was filtered and the residue extracted with hot dimethylformamide (40 ml). The extract was evaporated to give a crude product. A mixture of this crude product and ethanolic sodium ethoxide (0.13 g sodium in 110 ml absolute ethanol) was boiled under reflux for 50 hours. The hot reaction mixture was filtered and the filtrate cooled in ice. The precipitate was collected and purified by flash chromatography on Kieselgel 60 using dichloromethane:industrial methylated spirit 9:1 as the eluent. The purified product was recrystallised from industrial methylated spirit to give the novel compound 7-ethoxy-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone, m.p. 214°-217°.

reactant | 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | 5.0 g | FC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C12H10FN5O
reactant | sodium hydroxide | 5N, 80 ml | [OH-].[Na+]
reactant | sodium ethoxide | 110 ml, 0.13 g | [O-]CC.[Na+]
product | 7-ethoxy-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | C(C)OC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C14H15N5O2
